US07943619B2
Isoxazole-5-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using isoxazole-5-carbonyl chloride instead of methoxyacetyl chloride, to the title compound (290 mg, 77%) which was obtained as a white solid. MS: m/e=378.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | isoxazole-5-carbonyl chloride | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | Isoxazole-5-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide | 290 mg, 77% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(=O)C1=CC=NO1 | C19H15N5O4
